US04634708
Example 4: trans-4,6,6a,7,8,12b-hexahydroindolo[4,3-ab]phenanthridine
38.6 g of cyanogen bromide are dissolved in 400 ml of chloroform. 20 g of trans-4,6,6a,7,8,12b-hexahydro-7-methylindolo[4,3-ab]phenanthridine are added to the solution whilst stirring, followed by 10 g of potassium carbonate. The resultant suspension is stirred overnight at room temperature, then filtered and the filtrate concentrated. The residue of evaporation is dissolved whilst heating in 400 ml of concentrated acetic acid, and then 55 ml of water, followed by 47.5 g of zinc powder, are added. The resultant suspension is stirred for 18 hours at 90°. The reaction solution is then filtered, the residue of filtration washed with methylene chloride/methanol, and the combined filtrates evaporated. The residue of evaporation is taken up in methylene chloride/methanol=9/1, and extracted with 1n aqueous sodium carbonate solution. The combined organic phases are washed with sodium chloride solution, dried over magnesium sulphate, filtered, concentrated and the residue chromatographed on silica gel, using methylene chloride/methanol=95/5 (CH2Cl2 10% saturated with NH3). The title compound is obtained. When crystallised from methanol, its hydrochloride melts at 301°-303°.

reactant | cyanogen bromide | 38.6 g | N#CBr | CBrN
reactant | trans-4,6,6a,7,8,12b-hexahydro-7-methylindolo[4,3-ab]phenanthridine | 20 g | CN1[C@H]2CC=3C4=C([C@@H]2C2=CC=CC=C2C1)C=CC=C4NC3 | C19H18N2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | trans-4,6,6a,7,8,12b-hexahydroindolo[4,3-ab]phenanthridine | C1=CC=C2NC=C3C2=C1[C@@H]1C2=CC=CC=C2CN[C@H]1C3 | C18H16N2
